US06639076B1
A yellow slurry consisting of ethyl 2-bromo-2-(2-naphthyl)acetate (384.04 grams, 1.31 mol), 4-nitroimidazole (148.13 grams, 1.31 mol), potassium carbonate (362.11 grams, 2.62 mol), and dimethyl formamide (2500 mL) was stirred at ambient temperature until complete as determined by hplc (16 hours). The reaction mixture was diluted with water (2000 mL) and extracted with ethyl acetate (4×500 mL). The organic extracts were combined and washed with saturated sodium bicarbonate solution (2×500 mL), 10% citric acid solution (2×500 mL), saturated sodium chloride solution (2×500 mL), dried using sodium sulfate, and evaporated. A portion (50 grams) of the crude product was purified by column chromatography on silica gel eluting with dichloromethane:heptane (16:3) gradient to dichloromethane:heptane:methanol (16:3:0.2) giving 30.99 grams of ethyl 2-(2-naphthyl)-2-(4-nitroimidazolyl)acetate which was 90% pure by hplc. A 1 gram sample of the product was purified a second time using a Biotage Flash 40S system eluting with dichloromethane:heptane:methanol (16.9:3:0.1) to give 0.90 grams (46%) of ethyl 2-(2-naphthyl)-2-(4-nitroimidazolyl)acetate as a tan oil. MS (FIA) m/z 326.4 [(M+H)+]. 1H nmr (CDCl3): δ 1.25-1.31 (t, 3H), 4.28-4.39 (m, 2H), 6.16 (s, 1H), 7.36-7.44 (dd, 1H), 7.54-7.62 (m, 3H), 7.84-7.90 (m, 3H), 7.90-7.95 (m, 2H).

reactant | ethyl 2-bromo-2-(2-naphthyl)acetate | 1.31 mol, 384.04 grams | BrC(C(=O)OCC)C1=CC2=CC=CC=C2C=C1 | C14H13BrO2
reactant | 4-nitroimidazole | 1.31 mol, 148.13 grams | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | potassium carbonate | 2.62 mol, 362.11 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl formamide | 2500 mL | CN(C=O)C | C3H7NO
solvent | water | 2000 mL | O | H2O
product | ethyl 2-(2-naphthyl)-2-(4-nitroimidazolyl)acetate | 30.99 grams | C1=C(C=CC2=CC=CC=C12)C(C(=O)OCC)C=1NC=C(N1)[N+](=O)[O-] | C17H15N3O4
